US09278910B2
A stirring solution of 5-cyano-2-fluorobenzoic acid (2.02 g, 12.2 mmol) and benzimidamide hydrochloride monohydrate (2.14 g, 12.2 mmol) in DMF (15 mL) was treated with DIEA (5.34 mL, 30.6 mmol) and HATU (4.65 g, 12.2 mmol). The reaction mixture was stirred at room temperature for 30 min then heated at 100° C. for 18 h. The reaction mixture was cooled to room temperature and water (200 mL) was added. A precipitate formed which was isolated by filtration and dried under vacuum to afford 1.66 g (54%) of 4-oxo-2-phenyl-3,4-dihydroquinazoline-6-carbonitrile INT-87 as a light powdery white solid. LCMS-ESI (m/z) calculated for C15H9N3O: 247; found 248 [M+H]+, tR=1.70 min (Method 10).

reactant | 5-cyano-2-fluorobenzoic acid | 12.2 mmol, 2.02 g | C(#N)C=1C=CC(=C(C(=O)O)C1)F | C8H4FNO2
reactant | benzimidamide hydrochloride monohydrate | 12.2 mmol, 2.14 g | O.Cl.C(C1=CC=CC=C1)(N)=N
reactant | DIEA | 30.6 mmol, 5.34 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 12.2 mmol, 4.65 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 4-oxo-2-phenyl-3,4-dihydroquinazoline-6-carbonitrile | 1.66 g, 54% | O=C1NC(=NC2=CC=C(C=C12)C#N)C1=CC=CC=C1 | C15H9N3O
